US04166119
To a suspension of 3.4 g of magnesium shavings in 50 ml of ether is added a crystal of iodine followed by a few mls of a solution of 20.6 g of 2-fluorobenzyl chloride in 100 ml of ether. Thereafter, the reaction is initiated via a hot air gun before adding dropwise, while maintaining the reaction at reflux, the remaining 2-fluorobenzylchloride-ether solution. After total addition the reaction is maintained at reflux with stirring for an additional hour before successively adding 100 ml of ether and adding dropwise with vigorous stirring a solution of 25.0 g of N-benzyl-3-pyrrolidinone in 100 ml of ether. After complete addition the resulting suspension is refluxed for an additional 2 hours, stirred at ambient temperature for 16 more hours, and then filtered. The filter cake is washed well with ether and then hydrolyzed by stirring in an ice-ammonium chloride solution. The aqueous solution is extracted thrice with ether and the combined ether extracts are washed, successively, with water and a sodium chloride solution and dried. The solvent is removed and the residue is distilled at 135°-140° C., 0.1 mm pressure to provide a viscous yellow oil which solidifies upon standing. The solid is recrystallized twice from an ethanol-water mixture to give the product, 1-benzyl-3-(2-fluorobenzyl)-3-pyrrolidinol, mp 75°-77° C.

reactant | magnesium | 3.4 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 2-fluorobenzyl chloride | 20.6 g | FC1=C(CCl)C=CC=C1 | C7H6ClF
reactant | N-benzyl-3-pyrrolidinone | 25.0 g | C(C1=CC=CC=C1)N1CC(CC1)=O | C11H13NO
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-benzyl-3-(2-fluorobenzyl)-3-pyrrolidinol | C(C1=CC=CC=C1)N1CC(CC1)(O)CC1=C(C=CC=C1)F | C18H20FNO
